US04609650
16β-Ethyl-17β-(3,3-dimethylbutyryl)oxyacetoxy-4-estren-3-one
In 10 ml of acetone is dissolved 1.16 g of 3,3-dimethylbutyric acid, and 5.0 ml of 2N-NaOH is added, followed by addition of 1.15 g of 16β-ethyl-17β-bromoacetoxy-4-estren-3-one and 20 ml of DMF. The mixture is refluxed for 5 hours, and thereafter treated in the same manner as Example 26. The reaction mixture is chromatographed on a silica gel column. Following passage of 200 ml of n-hexanediisopropyl ether (3:7), elution is carried out with a 1:1 mixture of the same solvents. The eluate is evaporated under reduced pressure to remove the solvent, giving 0.76 g of the above-identified compound as a colorless viscous oil.

reactant | 3,3-dimethylbutyric acid | 1.16 g | CC(CC(=O)O)(C)C | C6H12O2
reactant | NaOH | [OH-].[Na+]
reactant | 16β-ethyl-17β-bromoacetoxy-4-estren-3-one | 1.15 g | C(C)[C@@H]1[C@@H]([C@]2(C)[C@@H](C1)[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O)OC(CBr)=O | C22H31BrO3
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 16β-Ethyl-17β-(3,3-dimethylbutyryl)oxyacetoxy-4-estren-3-one | 0.76 g | C(C)[C@@H]1[C@@H]([C@]2(C)[C@@H](C1)[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O)OC(COC(CC(C)(C)C)=O)=O | C28H42O5
